US08580795B2
Synthesis of 6-(2-(4-methoxydibenzo[b,d]furan-1-yl)thiazol-4-yl)picolinic acid
To a slurry of ethyl 6-(2-(4-methoxydibenzo[b,d]furan-1-yl)thiazol-4-yl)picolinate (50 mg, 0.116 mmol) in ethanol (5 mL), potassium hydroxide (30 mg, 0.535 mmol) in water (0.5 mL) was added. The reaction slurry was stirred at room temperature for 2 h. Subsequently the reaction mixture was poured into water acidified with 1N HCl to a pH of 3-4; the precipitated solid was filtered and washed with ether and hexane. Yield—42%; Rf 0.23 (Chloroform:Methanol (8.5:1.5); HPLC (purity): 96%; 1H-NMR (CDCl3) δ: 4.15 (s, 3H), 7.09 (d, 1H), 7.29-7.32 (m, 1H), 7.51-7.55 (m, 2H), 8.08-8.12 (m, 1H), 8.24 (d, 1H), 8.56 (d, 1H), 8.75 (d, 1H); MS m/z: 403.1 (M+1).

reactant | ethyl 6-(2-(4-methoxydibenzo[b,d]furan-1-yl)thiazol-4-yl)picolinate | 0.116 mmol, 50 mg | COC1=CC=C(C2=C1OC1=C2C=CC=C1)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)OCC | C24H18N2O4S
reactant | potassium hydroxide | 0.535 mmol, 30 mg | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
product | 6-(2-(4-methoxydibenzo[b,d]furan-1-yl)thiazol-4-yl)picolinic acid | Yield—42% | COC1=CC=C(C2=C1OC1=C2C=CC=C1)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)O | C22H14N2O4S
